US08609731B2
(S)-6-tert-Butoxycarbonylamino-5,6,7,8-tetrahydronaphthalene-2-carboxylic Acid
To a mixture of (S)-6-amino-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid (1.0 g), sodium hydroxide solution (32%; 1.1 g) and MeOH (20 ml) was added DI-TERT-BUTYL DICARBONATE (1.92 g). The mixture was stirred at 50° C. for 6 hours and then water (150 ml) was added. After extraction with diethyl ether, the aqueous phase was acidified slightly and extracted three times with DCM. The combined organic phases were dried over magnesium sulphate and concentrated. The product was thus obtained with the molecular weight of 291.35 (C16H21NO4); MS (ESI): 292 (M+H+).

reactant | (S)-6-amino-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid | 1.0 g | N[C@@H]1CC=2C=CC(=CC2CC1)C(=O)O | C11H13NO2
reactant | sodium hydroxide | 1.1 g | [OH-].[Na+]
reactant | MeOH | 20 ml | CO | CH4O
reactant | DI-TERT-BUTYL DICARBONATE | 1.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 150 ml | O | H2O
product | (S)-6-tert-Butoxycarbonylamino-5,6,7,8-tetrahydronaphthalene-2-carboxylic Acid | C(C)(C)(C)OC(=O)N[C@@H]1CC=2C=CC(=CC2CC1)C(=O)O | C16H21NO4
